US09034866B2
Synthesis of 9-[(R)-3-Hydroxy-3-(5-methyl-isoxazol-3-yl)-but-1-ynyl]-3-morpholin-4-ylmethyl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide
Following Procedure F, 10-bromo-3-(morpholinomethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol to give the titled compound as a colorless solid after purification by SFC. LC MS: 478.2 [M+H]+; 1H NMR (400 MHz, DMSO) δ 8.52 (d, J=1.9 Hz, 1H), 7.57 (s, 1H), 7.33 (dd, J=8.5, 2.0 Hz, 1H), 7.09 (s, 1H), 7.03 (d, J=8.5 Hz, 1H), 6.50 (s, 1H), 6.46 (s, 1H), 6.35 (s, 1H), 4.50 (br m, 4H), 3.97 (br s, 2H), 3.52 (br m, 4H), 2.40 (s, 3H), 2.39 (m, 2H), 1.80 (s, 3H).

reactant | 10-bromo-3-(morpholinomethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3CCOCC3)C1 | C17H19BrN4O3
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | 9-[(R)-3-Hydroxy-3-(5-methyl-isoxazol-3-yl)-but-1-ynyl]-3-morpholin-4-ylmethyl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | O[C@@](C#CC=1C=CC2=C(C3=NC(=C(N3CCO2)CN2CCOCC2)C(=O)N)C1)(C)C1=NOC(=C1)C | C25H27N5O5
